US04368334
Preparation of Sodium p-Hydroxymandelate
Sodium hydroxide solution (50% w/w, ca 650 ml) was added dropwise over about one hour to a stirred mixture of phenol (1.098 kg), aqueous glyoxylic acid (50% w/w solution, 720 ml) and water (3 l) at 15° C. until a pH of 10.5 had been reached. The reaction mixture was then stirred and tested at 35° C. for 3 hours. The solution was adjusted to pH7 with concentrated hydrochloric acid and extracted at 35° C. with methyl isobutyl ketone to remove excess phenol. The aqueous solution was adjusted to pH2 with concentrated hydrochloric acid and continuously extracted in a counter-current extractor with ethyl acetate at an organic to aqueous flow rate of 1 to 1.

reactant | Sodium hydroxide | ca 650 ml | [OH-].[Na+]
reactant | phenol | 1.098 kg | C1(=CC=CC=C1)O | C6H6O
reactant | glyoxylic acid | 720 ml | C(C=O)(=O)O | C2H2O3
reactant | hydrochloric acid | Cl | ClH
solvent | water | 3 l | O | H2O
product | Sodium p-Hydroxymandelate | OC1=CC=C(C(C(=O)[O-])O)C=C1.[Na+] | InChI=1S/C8H8O4.Na/c9-6-3-1-5(2-4-6)7(10)8(11)12;/h1-4,7,9-10H,(H,11,12);/q;+1/p-1
